US06388088B1
A solution of 2-[3-chloro-4-(5-methyl-tetrazol-1-yl)-phenyl]-3-cyclopentyl-propionic acid (303 mg, 0.9 mmol) in fluorobenzene (1 mL) and NN-dimethylformamide (3 μL) at 25° C. was treated dropwise with oxalyl chloride (97 μL, 1.09 mmol) over 2-3 min. The clear solution was stirred at 25° C. for 1 h and then treated with methyl urea (201 mg, 2.72 mmol). The resulting suspension was heated at 70° C. (bath temperature) for 10 min and then treated with pyridine (146.6 μL, 1.81 mmol). The reaction mixture was then stirred at 70° C. for 20 h. The reaction mixture was then cooled to 25° C. and diluted with ethyl acetate (30 mL) and a 3N aqueous hydrochloric acid solution (30 mL). The two layers were separated, and the aqueous layer was extracted with ethyl acetate (1×20 mL). The combined organic extracts were successively washed with a saturated aqueous sodium bicarbonate solution (1×50 mL) and a saturated aqueous sodium chloride solution (1×50 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40M, Silica, 1/1 hexanes/ethyl acetate) afforded 1-{2-[3-chloro-4-(5-methyl-tetrazol-1-yl)-phenyl]-3-cyclopentyl-propionyl}-3-methyl-urea (110 mg, 31%) as a white solid: mp 185-186° C. EI-HRMS m/e calcd for C18H23ClN6O2 (M+H)+ 391.1649, found 391.1659.

reactant | 2-[3-chloro-4-(5-methyl-tetrazol-1-yl)-phenyl]-3-cyclopentyl-propionic acid | 0.9 mmol, 303 mg | ClC=1C=C(C=CC1N1N=NN=C1C)C(C(=O)O)CC1CCCC1 | C16H19ClN4O2
reactant | oxalyl chloride | 1.09 mmol, 97 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methyl urea | 2.72 mmol, 201 mg | CNC(=O)N | C2H6N2O
reactant | pyridine | 1.81 mmol, 146.6 μL | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 3N, 30 mL | Cl | ClH
solvent | fluorobenzene | 1 mL | FC1=CC=CC=C1 | C6H5F
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 1-{2-[3-chloro-4-(5-methyl-tetrazol-1-yl)-phenyl]-3-cyclopentyl-propionyl}-3-methyl-urea | 110 mg, 31% | ClC=1C=C(C=CC1N1N=NN=C1C)C(C(=O)NC(=O)NC)CC1CCCC1 | C18H23ClN6O2
